US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylmethoxycarbonyl)amino]benzamide Hydrochloride
Using a similar procedure to that described in Example 9-C, N-(5-chloropyridin-2-yl)-2-[(piperidin-4-ylmethoxycarbonyl)amino]benzamide (100 mg, 0.199 mmol), acetone (0.075 mL), and sodium cyanoborohydride (50 mg, 0.80 mmol) yielded, after treatment with HCl, 25 mg of the title compound as a hydrochloride salt.

reactant | N-(5-chloropyridin-2-yl)-2-[(piperidin-4-ylmethoxycarbonyl)amino]benzamide | 0.199 mmol, 100 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)OCC1CCNCC1)=O | C19H21ClN4O3
reactant | sodium cyanoborohydride | 0.80 mmol, 50 mg | C(#N)[BH3-].[Na+]
reactant | HCl | Cl | ClH
reactant | acetone | 0.075 mL | CC(=O)C | C3H6O
product | N-(5-Chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylmethoxycarbonyl)amino]benzamide Hydrochloride | 25 mg | Cl.ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)OC(C(C)C)C1CCNCC1)=O | InChI=1S/C22H27ClN4O3.ClH/c1-14(2)20(15-9-11-24-12-10-15)30-22(29)26-18-6-4-3-5-17(18)21(28)27-19-8-7-16(23)13-25-19;/h3-8,13-15,20,24H,9-12H2,1-2H3,(H,26,29)(H,25,27,28);1H
